US08106064B2
(2-Chloro-pyridin-4-yl)-methanol (2.82 g, 19.67 mmol) was refluxed with 25 wt. % sodium methoxide (25 ml) solution for 24 hr. After cooling to room temperature, the mixture was evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent, EA:hexane (1:1)) to afford 1.8 g (60%) of (2-Methoxy-pyridin-4-yl)-methanol as a pale brown oil. 1H NMR (200 MHz, CDCl3) δ 2.16 (3H, s), 2.21 (3H, s), 5.13 (2H, s), 6.99 (1H, d, J=5.6 Hz), 8.11 (1H, br. s), 8.12 (1H, s), 8.23 (1H, d, J=5.6 Hz).

reactant | (2-Chloro-pyridin-4-yl)-methanol | 19.67 mmol, 2.82 g | ClC1=NC=CC(=C1)CO | C6H6ClNO
reactant | sodium methoxide | 25 ml | C[O-].[Na+]
product | (2-Methoxy-pyridin-4-yl)-methanol | 1.8 g, 60% | COC1=NC=CC(=C1)CO | C7H9NO2
